data/rdb19/train.csv
rxn,smiles,ea
4662,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17](=[C:18][c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[H:27])([H:11])[H:12])([H:8])([H:9])[H:10],30.24159656307893
4743,[C:1]([H:2])([H:3])[H:4].[C:5](=[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])[H:15])([H:13])[H:14]>>[C:1]([H:2])([H:3])([H:4])[C:7]1([C:6](=[C:5]([H:13])[H:14])[H:15])[C:8]([H:16])[C:9]([H:17])=[C:10]([H:18])[C:11]([H:19])=[C:12]1[H:20],22.99374944687588
4115,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[H:15][C:23]1([H:31])[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]([H:34])[C:25]([H:33])=[C:24]1[H:32],40.71703405852895
5499,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6][H:11])[H:10])([H:7])([H:8])[H:9].[H:12][C:15]([C:14]([C:13]([H:22])([H:23])[H:24])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:16])[H:17],26.61035973520484
1979,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:16]([C:14]([O:13][C:12]([C:11]([H:20])([H:21])[H:22])([H:23])[H:24])=[O:15])([H:17])[C:18]([C:19]([H:27])([H:28])[H:29])([H:25])[H:26])([H:6])[H:7]>>[C:11]([C:12]([O:13][C:14]=[O:15])([H:23])[H:24])([H:20])([H:21])[H:22].[N:1]([C:2]1([C:4](=[C:5]([H:9])[H:10])[H:8])[O:3][C:16]1([H:17])[C:18]([C:19]([H:27])([H:28])[H:29])([H:25])[H:26])([H:6])[H:7],53.452318880939856
1085,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:16]1([C:15](=[C:14]([H:22])[H:23])[H:24])[C:17]([H:25])[C:18]([H:26])=[C:19]([H:27])[C:20]([H:28])=[C:21]1[H:29],39.4808841192862
3088,[C:16]([C:17]([C:18]([H:19])[H:20])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10].[H:8][C:18]([C:17]([C:16]([H:25])([H:26])[H:27])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:19])[H:20],22.69053581688786
3262,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([N:26]([C:27](=[O:28])[H:34])[H:33])[H:32])([H:29])([H:30])[H:31]>>[C:1]([C:2]([H:10])([H:11])[C:23]([C:22]([C:21]([H:29])([H:30])[H:31])([N:26]([C:27](=[O:28])[H:34])[H:33])[H:32])([H:24])[H:25])([H:7])([H:8])[H:9].[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20],57.563094428915065
464,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])([c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([O:2][O:3][H:26])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])([c:11]1[c:12][c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19],32.008018625259865
853,[C:19]([C:20]([C:21]([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:21]([C:20]([C:19]([H:25])([H:26])[H:27])([H:28])[H:29])([H:22])[O:23][C:24]([H:30])([H:31])[H:32],19.46070047887042
789,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])=[C:23]([O:24])[O:25][C:26]([H:35])([H:36])[H:37])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:31])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][O:24][C:23](=[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])[H:30])[C:22]([H:32])([H:33])[H:34])[O:25][C:26]([H:35])([H:36])[H:37],43.48881548276404
